US08207151B2
2-((10S,13S,16R,17R)-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate:
(Z)-2-((10S,13S,16R)-10,13,16-trimethyl-3-oxo-7,8,12,13,15,16-hexahydro-3H-cyclopenta[a]phenanthren-17(6H,10H,14H)-ylidene)-2-(trimethylsilyloxy)ethyl acetate is dissolved in methylene chloride and the mixture is cooled to zero degrees Celsius. A solution of m-chloroperbenzoic acid in methylene chloride is added dropwise and the mixture is stirred for 4 hours. The organic phase was washed with aqueous acetic acid and then aqueous bisulfite. The organic phase was concentrated and chromatographed on silica gel to yield the title compound.

reactant | (Z)-2-((10S,13S,16R)-10,13,16-trimethyl-3-oxo-7,8,12,13,15,16-hexahydro-3H-cyclopenta[a]phenanthren-17(6H,10H,14H)-ylidene)-2-(trimethylsilyloxy)ethyl acetate | C(C)(=O)OC/C(/O[Si](C)(C)C)=C/1\[C@@H](CC2C3CCC4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C | C27H38O4Si
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-((10S,13S,16R,17R)-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate | C(C)(=O)OCC(=O)[C@]1([C@@H](CC2C3CCC4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)O | C24H30O5
